US05763437
To a solution of (3RS)-1-ethoxycarbonylmethyl-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2,3-dihydro-1H -1,4-benzo-diazepin-2-one (7.2 g) in methanol (100 ml) was added 4N solution of hydrogen chloride in ethyl acetate (55 ml) under stirring at ambient temperature. The mixture was stirred for 4 hours under the same condition and allowed to stand overnight. The solvent was removed in vacuo to give residue, to which was added water. The mixture was adjusted to pH 8 with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate twice. The combined extract was washed with water and dried over magnesium sulfate. Removal of the solvent afford (3RS)-3-amino-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (5.46 g) as an amorphous mass, which was used in a following reaction step without further purification,

reactant | (3RS)-1-ethoxycarbonylmethyl-3-tert-butoxycarbonylamino-5-(2-fluorophenyl)-2,3-dihydro-1H -1,4-benzo-diazepin-2-one | 7.2 g | C(C)OC(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)OC(C)(C)C)=O | C24H26FN3O5
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | 55 ml | C(C)(=O)OCC | C4H8O2
product | (3RS)-3-amino-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 5.46 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)OCC)=O | C19H18FN3O3
